US08685991B2
Part A. Preparation of 3-bromo-2-methoxy-5-nitrobenzaldehyde
Into an appropriately sized pressure bottle was placed commercially available 3-bromo-2-hydroxy-5-nitrobenzaldehyde (2.46 gm, 10.00 mmol), iodomethane (6.23 mL, 100 mmol), silver oxide (2.317 g, 10.00 mmol) and acetonitrile (50 mL). The bottle was sealed and heated with stirring at 50° C. for 2 h. The reaction mixture was filtered through celite and the filtrate concentrated to give a solid residue that was triturated with hexane, collected by filtration and dried. The resulting solid was purified by silica gel chromatography (hexane-ethylacetate) to give the title compound (1.2 g, 46%).

reactant | 3-bromo-2-hydroxy-5-nitrobenzaldehyde | 10.00 mmol, 2.46 gm | BrC=1C(=C(C=O)C=C(C1)[N+](=O)[O-])O | C7H4BrNO4
reactant | iodomethane | 100 mmol, 6.23 mL | IC | CH3I
catalyst | silver oxide | 10.00 mmol, 2.317 g | [Ag]=O
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 3-bromo-2-methoxy-5-nitrobenzaldehyde | 1.2 g, 46% | BrC=1C(=C(C=O)C=C(C1)[N+](=O)[O-])OC | C8H6BrNO4
